Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lisinopril / Celebrex / Tramadol / Pollen Extracts / Cat/Feline 
Product Derivatives
 
Attending: ___.
 
Chief Complaint:
L hip pain
 
Major Surgical or Invasive Procedure:
sacroiliac joint injection
greater trochanteric bursa injection
epidural injection
 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE .

PCP: Name: ___ 
Location: HEALTHCARE ASSOCIATES
___ 
Address: ___/CC-6, ___ 
Phone: ___ 
Fax: ___ 
Email: ___ 
confirmed with OMR , last saw  PCP ___ ___
.
Rheumatologist Dr. ___ at ___
.
Patient is a ___ yo woman with PMHx sig. for rheumatoid arthritis 
on Remicade q 4 weeks who presents with L hip pain and lower 
back pain.  She was due for remicade 2 day ptp and over the 
course of the last week she has noticed increased b/l hip pain. 
She received remicaide on ___ with good effect of her 
pain. She went home and awoke the next morning with pain in L 
hip. Pain worsened over the day ___.  She ran out of 
hydrocodone and drove to the pharmacy to get the ppx refilled. 
Despite taking the hydrocodone her pain worsened. She couldn't 
sleep ___ pain. Pain alleviated somewhat by heat packs but 
slowly continued to worsen. She called her PCP's office the 
evening PTP. PCP office advised her to go to the ED. Hip pain 
then progressed twoards her lower back. No h/o lower back pain. 
She usually has neck pain. No f/c. No recent falls since last 
___ during which she fractured her shoulder. No 
incontinence of stool or urine. No focal weakness. 
She also noticed rectal bleeding ___ tsp on the toilet paper 
over the past month. She was given steroid suppositories by Dr. 
___.
.
In the ED, initial VS were:  97.4 86 156/98 18 98%.  Exam was 
notable for L paraspinal tenderness, writhing in pain.  L hip 
xray showed no hip fracture.  The patient received dilaudid, 
ibuprofen, percocet, valium, and omeprazole.  She is being 
admitted for pain control. Pain in hip worse with weight 
bearing.
.
In ER: (
Meds Given: Oxycodone-Acetaminophen 5mg/325mg Tablet [class 2] 1 
___ 
___ 11:49 Diazepam 5 mg Tab [class 4] 1 ___ 
___ 13:40 Oxycodone-Acetaminophen 5mg/325mg Tablet [class 2] 2 
___ 
___ 13:40 Ibuprofen 400mg Tablet 2 ___ 
___ 13:46 Omeprazole 20mg Cap 2 ___ 
___ 15:31 HYDROmorphone (Dilaudid) 1mg/1mL Syringe [class 2] 1 
___ 
___ 17:47 HYDROmorphone (Dilaudid) 1mg/1mL Syringe [class 2] 1 
___ 
___ 18:25 Diazepam 10mg/2mL Syringe [class 4] 

 Fluids given: 1L NS
Radiology Studies: Hip X ray- no formal read but per my read no 
overt fx but marked degeneration of b/l acetabulae R >L
consults called: none

.

PAIN SCALE: ___ pain in L hip. 
________________________________________________________________
REVIEW OF SYSTEMS:
CONSTITUTIONAL:        [] All Normal
[-] Fever  [- ] Chills   [ ] Sweats  [ ] Fatigue   [ ] Malaise   
[ ]Anorexia  [ ]Night sweats
[ ?] weight  loss but she suspects that the bedscale in the 
hospital is incorrect 

HEENT:          [X] All Normal
[ ] Blurred vision   [ ] Blindness  [ ] Photophobia
[ ] Decreased acuity [ ] Dry mouth  [ ] Bleeding gums
[ ] Oral ulcers  [ ] Sore throat    [ ] Epistaxis  [ ] Tinnitus
[ ] Decreased hearing    [ ]Tinnitus [ ] Other:

RESPIRATORY:    [] All Normal
[ ] SOB     [+] DOE- no worse chronic x years    [+] Can't walk 
2 flights     [ ] Cough
[ ] Wheeze  [ ] Purulent sputum    [ ] Hemoptysis   [ ]Pleuritic 
pain 
[ ] Other:

CARDIAC:        [X]  All Normal
[ ] Angina    [ ] Palpitations   [ ] Edema   [ ] PND
[] Orthopnea    [ ] Chest Pain [ ] Other:

GI:             [] All Normal
[ ] Blood in stool     [ ] Hematemesis     [ ] Odynophagia
[ ] Dysphagia:   [ ] Solids    [ ] Liquids [+]Blood on toilet 
paper
[ ] Anorexia    [-] Nausea  [-] Vomiting   [ ] Reflux
[+] Diarrhea  but now   [+] Constipation- mild ___ opiods  []  
Abd pain  [ ] Other:

GU:             [X] All Normal
[ ] Dysuria      [ ] Frequency    [ ] Hematuria  []Discharge 
[]Menorrhagia  

SKIN:           [X] All Normal
[ ] Rash        [ ] Pruritus

MS:             [X] All Normal
[ ] Joint pain    [ ] Jt swelling   [ ] Back pain  [ ] Bony pain

NEURO:          [X] All Normal
[ ] Headache    [ ] Visual changes   [ ] Sensory change [ 
]Confusion [ ]Numbness of extremities
[ ] Seizures   [ ] Weakness [ ] Dizziness/Lightheaded [ ]Vertigo 
[ ] Headache

ENDOCRINE:     [X] All Normal
[ ] Skin changes  [ ] Hair changes   [ ] Temp subjectivity

HEME/LYMPH:    [X] All Normal
[ ] Easy bruising   [ ] Easy bleeding    [ ] Adenopathy

PSYCH:         [X] All Normal
[ ] Mood change        []Suicidal Ideation  [ ] Other:  

 

[x]all other systems negative except as noted above 

 
Past Medical History:
Hypertension
Allergic rhinitis
Ashtma
Rheumatoid arthritis
Sleep apnea
Osteoarthritis
Steatohepatitis
Seasonal affective disorder
Osteoporosis
Hemorrhoids
Ulcerative proctitis
Noctural myoclonus
Shingles on L side in ___
 
Social History:
___
Family History:
Mother died of leukemia at age ___. Father died of MI at age ___. 
GF died age ___ of stroke after hernia. Grand uncle also died 
young a stroke.GM died after having several strokes and MI. 
 
Physical Exam:
Gen: NAD, EOMI, MMM, sclera anicteric, not injected
Neck: no LAD, no JVD
Cardiovascular: RRR normal s1, s2, no murmurs appreciated
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales or rhonchi  
Abd: normoactive bowel sounds, soft, non-tender, obesely 
distended Extremities: No edema, 2+ DP pulses
L upper extremity with mulitple ecchymoses. 
Back: No pinpoint tenderness along spine
Rectal: external hemorrhoids. No bleeding. Vault empty of stool
? slightly diminished tone
No saddle anesthesia
+ L SLR. 
Neurological: CN II-XII intact, normal attention, sensation 
normal, speech fluent, DTR's 2+ patellar, achilles, biceps, 
NEURO: EOMI, face symmetric, no tongue deviation
Integument: Warm, moist, no rash or ulceration  
Psychiatric: appropriate, pleasant, not anxious  
 
Pertinent Results:
Admission labs:  
___ 11:35PM   CRP-6.4*
___ 11:35PM   SED RATE-17
.
Imaging:
Hip xray ___:
IMPRESSION: No fracture or dislocation.
.
Lumbar MRI ___:
IMPRESSION: 
1. Lumbar spondylosis described above worst at L4-L5 with a 
large disc 
protrusion at L4-L5 with superior migration, resulting in 
significant spinal canal narrowing. The left lateral recess at 
the level of L4 is most severely affected. Please see level by 
level description in OMR.
2. Minimal grade 1 retrolisthesis of L2 on L3. 
3. No abnormal enhancement on the ___ images.
.
Discharge labs:
 ___ 06:20AM BLOOD WBC-15.9* RBC-3.59* Hgb-11.5* Hct-35.2* 
MCV-98 MCH-32.1* MCHC-32.7 RDW-17.7* Plt ___
___ 06:20AM BLOOD Glucose-90 UreaN-19 Creat-0.8 Na-136 
K-4.2 Cl-96 HCO3-30 AnGap-14
___ 06:20AM BLOOD ___
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of rheumatoid 
arthritis on remicade, prednisone, MTX who presents with 
sciatica down L leg.  Originally, she was thought to have L hip 
pain but was later felt by Dr. ___ to have adequate ROM without 
pain and an exam more suggesttive for sciatica.  Her course has 
been notable for waxing and waning pain requiring IV morphine.  
MRI was attempted on ___ but the machine was too small to 
accommodate MS. ___ so arrangements were made for exam to happen 
on the ___ on ___ and it revealed L4-L5 disc 
herniation.  Neurosurgery was consulted and recommended 
conservative treatment as well as IV Decadron.  Since she is 
already on steroids (Prednisone 15 mg daily), after discussion 
with Dr. ___ was decided to go up on the Prednisone 
to 60 mg po daily for a few days.  She continued to have severe 
pain, and was seen by the pain service.  Narcotic pain 
medications were increased, with mscontin, oxycodone, and 
neurontin.  She continued to have pain, and had injections in 
her SI joint, GTB bursa, and her ultimately in her epidural 
space.  With treatment, she improved, was able to ambulate, and 
was discharged home.

Her remaining medical problems included rheumatoid arthritis, 
obesity, ulcerative proctitis, hypertension, asthma, 
osteoporosis all remained stable, and she was continued on her 
home medications.
 
Medications on Admission:
Active Medication list as of ___ OMR reviewed with pt. 
 
Medications - Prescription
ALBUTEROL SULFATE - 90 mcg HFA Aerosol Inhaler - 2 inhalations 
every four (4) hours as needed for asthma
CITALOPRAM - 20 mg Tablet - 0.5 (One half) Tablet(s) by mouth at 
bedtime
CLONAZEPAM - 0.5 mg Tablet - two Tablet(s) by mouth at bedtime 
as needed
FLUTICASONE [FLONASE] - 50 mcg Spray, Suspension - 2 squirts to 
each nostril daily
FOLIC ACID - 1 mg Tablet - 2 Tablet(s) by mouth day
HYDROCHLOROTHIAZIDE - 25 mg Tablet - 1 (One) Tablet(s) by mouth 
once a day
HYDROCODONE-ACETAMINOPHEN - 7.5 mg-325 mg Tablet - ___ Tablet(s) 
by mouth every four (4) hours as needed for pain
HYDROCORTISONE ACETATE -  (Prescribed by Other Provider) - 25 mg 
Suppository - apply rectally ___ times/day as needed for 
hemorrhoidal irritation
INFLIXIMAB [REMICADE] -  (Dose adjustment - no new Rx) - 100 mg 
Recon Soln - Infuse 800 mg (7.2mg/kg) once every 4 weeks
INSPIREASE INHALER -  Device - USE WITH INHALER AS DIRECTED
METHOTREXATE SODIUM - 2.5 mg Tablet - 9 Tablet(s) by mouth per 
week- takes it on ___
MOEXIPRIL - 15 mg Tablet - 1 (One) Tablet(s) by mouth once a day
NASAL CPAP -  (Prescribed by Other Provider) -   - 12 cms at 
bedtime as needed for with sleep
NYSTATIN-TRIAMCINOLONE - 100,000 unit/gram-0.1 % Cream - apply 
twice a day
OLOPATADINE [PATANOL] - 0.1 % Drops - 2 drops each eyes twice a 
day as needed for allergies
OMEPRAZOLE - 20 mg Capsule, Delayed Release(E.C.) - 2 (Two) 
Capsule(s) by mouth once a day
PREDNISONE - 5 mg Tablet - 3 Tablet(s) by mouth once a day- 
confirmed with pt 
RELAFEN - 750 mg Tablet - 2 (Two) Tablet(s) by mouth once a day
SIMVASTATIN - 20 mg Tablet - 1 Tablet(s) by mouth once a day
SULFAMETHOXAZOLE-TRIMETHOPRIM [BACTRIM DS] - 800 mg-160 mg 
Tablet - 1 (One) Tablet(s) by mouth 3 times per week, ___
 
Medications - OTC
ACETAMINOPHEN [TYLENOL EXTRA STRENGTH] -  (Prescribed by Other 
Provider) - 500 mg Tablet - 2 Tablet(s) by mouth three times a 
day as needed for pain
CALCIUM CITRATE-VITAMIN D3 [CITRACAL + D MAXIMUM] -  (OTC) - 315 
mg-250 unit Tablet - 1 Tablet(s) by mouth twice a day
DIPHENHYDRAMINE HCL [BENADRYL] -  (Prescribed by Other Provider) 
- Dosage uncertain
ERGOCALCIFEROL (VITAMIN D2) -  (OTC) - 400 unit Capsule - 1 
Capsule(s) by mouth once a day
PSEUDOEPHEDRINE HCL [SUDAFED] -  (Prescribed by Other Provider) 
- Dosage uncertain

 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
3. Sulfamethoxazole-Trimethoprim 800-160 mg Tablet Sig: One (1) 
Tablet PO DAILY ___ ().  
4. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q6H (every 6 hours) as 
needed for shortness of breath or wheezing.  
5. Citalopram 20 mg Tablet Sig: 0.5 Tablet PO QHS (once a day 
(at bedtime)).  
6. Clonazepam 1 mg Tablet Sig: One (1) Tablet PO QHS (once a day 
(at bedtime)) as needed for insomnia.  
7. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: Two (2) 
Spray Nasal DAILY (Daily).  
8. Folic Acid 1 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

9. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
10. Moexipril 15 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
11. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
12. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
13. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day).  
14. Calcium Carbonate 200 mg (500 mg) Tablet, Chewable Sig: Two 
(2) Tablet, Chewable PO DAILY (Daily).  
15. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
16. Methotrexate Sodium 2.5 mg Tablet Sig: Five (5) Tablet PO 
QWED (every ___.  
17. Methotrexate Sodium 2.5 mg Tablet Sig: Four (4) Tablet PO 
QWED (every ___.  
18. hydrocortisone acetate 25 mg Suppository Sig: One (1) 
Suppository Rectal TID (3 times a day).  
19. pseudoephedrine HCl 30 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for nasal congestion.  
20. Neurontin 300 mg Capsule Sig: One (1) Capsule PO three times 
a day.  
21. oxycodone 5 mg Tablet Sig: Two (2) Tablet PO Q3H (every 3 
hours) as needed for pain .
Disp:*100 Tablet(s)* Refills:*0*
22. nabumetone 750 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
23. prednisone 5 mg Tablet Sig: Four (4) Tablet PO once a day 
for 1 days: Then resume 15 mg per day on ___.  
24. morphine 30 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO Q12H (every 12 hours).
Disp:*60 Tablet Sustained Release(s)* Refills:*0*
25. Bariatric commode
Use as directed.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
## L4-L5 Disc herniation with severe back pain/sciatica
## Rheumatoid Arthritis on Remicaid, MTX, Prednisone
## Immunosuppressed secondary to above
## Hypertension
## Hypercholesterolemia
## Osteoporosis/High risk
## Depression
## Neuropathy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
You were admitted to the hospital with acute onset back/leg pain 
that we feel is likely due to a herniated disk in your back at 
the L4-L5 level.  Neurosurgical Spine (Dr. ___ saw you 
in consultation and recommended conservative treatment and pulse 
dose systemic steroids (we increased your prednisone). As you 
continued to have pain and difficulty walking, we consulted the 
Pain Service for an epidural injection. The procedure was 
delayed due to a lab value indicating a higher risk of bleeding, 
which we attributed to antibiotics and treated with vitamin K. 
In the meantime, you underwent an injection of your sacroiliac 
joint and greater trochanteric bursa, which provided some 
relief. We also added a long-acting oral morphine. You finally 
had the epidural injection on ___.
.
Medication changes:
Start MSCONTIN 30 MG twice daily
Start OXYCODONE 10 MG every ___ hours for pain
Start NEURONTIN 300 mg three times daily (same dose as 
previously)
Stop VICODIN
Continue PREDNISONE 20 mg for 1 more day, and then restart 15 mg 
every day
.
Take the Mscontin, oxycodone, neurontin first thing in the 
morning.  Then with breakfast, take the relafen and prednisone.  
This should help with your morning pain.
 
Followup Instructions:
___